US04377695
8-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-caprylic acid hexylester
5 cc. of thionylchloride are added to 1 g. of 8-(2-oxo-3-phenyl-benzimidazolin-1-yl)-caprylic acid and the mixture is stirred at room temperature for 2 hours. Unreacted thionylchloride is evaporated in a vacuum, the residue is dissolved in a small amount of anhydrous chloroform and 238 mg. of hexanol are added to the solution. The mixture is stirred at room temperature for 4 hours, consequetively washed with 5% NaHCO3 solution and water, dried over Na2SO4 and evaporated in a vacuum. The residue is further purified chromatographically on silicic acid gel using hexane/ethyl acetate as eluant.

reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
reactant | 8-(2-oxo-3-phenyl-benzimidazolin-1-yl)-caprylic acid | O=C1N(C2=C(N1CCCCCCCC(=O)O)C=CC=C2)C2=CC=CC=C2 | C21H24N2O3
product | 8-(2-Oxo-3-phenyl-benzimidazolin-1-yl)-caprylic acid hexylester | C(CCCCC)OC(CCCCCCCN1C(N(C2=C1C=CC=C2)C2=CC=CC=C2)=O)=O | C27H36N2O3
